US08334310B2
To a suspension of (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate hydrochloride (0.500 g, 1.31 mmol) in CH2Cl2 (20 mL) was added triethylamine (0.544 mL, 3.915 mmol), followed by 2-methoxyacetyl chloride (0.13 mL, 1.44 mmol). The reaction was stirred at room temperature for 18 h. The reaction mixture was washed once with saturated aqueous NaHCO3 (3 mL) and once with brine (3 mL). The organic layer was dried (MgSO4), filtered, and concentrated in vacuo. Purification of the crude material by flash chromatography on silica gel (5:1 EtOAc:hexanes) afforded (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(2-methoxyacetamido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate as a white solid (0.380 g, 70% yield).

reactant | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate hydrochloride | 1.31 mmol, 0.500 g | Cl.C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1N)OC(C)=O)OC(C)=O)COC(C)=O
reactant | triethylamine | 3.915 mmol, 0.544 mL | C(C)N(CC)CC | C6H15N
reactant | 2-methoxyacetyl chloride | 1.44 mmol, 0.13 mL | COCC(=O)Cl | C3H5ClO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(2-methoxyacetamido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate | 0.380 g, 70% yield | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1NC(COC)=O)OC(C)=O)OC(C)=O)COC(C)=O | C17H25NO11
